US06194406B1
4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane
Combine 1-ethoxycarbonyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (17.2 g, 47.6 mmol), hydrazine hydrate (40 mL), and potassium hydroxide (40.7 g, 725 mmol) in ethylene glycol (150 mL). Heat to reflux. After 5 hours, cool the reaction mixture and dilute with water (500 mL). Extract three times with dichloromethane. Combine the dichloromethane layers and extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf=0.25 (silica gel, dichloromethane/methanol, 90/10).

reactant | 1-ethoxycarbonyl-4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 47.6 mmol, 17.2 g | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C19H28N4O3
reactant | hydrazine hydrate | 40 mL | O.NN
reactant | potassium hydroxide | 725 mmol, 40.7 g | [OH-].[K+]
solvent | ethylene glycol | 150 mL | C(CO)O | C2H6O2
solvent | water | 500 mL | O | H2O
product | 4-(1-(2-Ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C16H24N4O
